US04672064
A mixture of 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol 500 mg, N-phenylpiperazine (500 mg), potassium iodide (50 mg), potassium carbonate (400 mg) and N,N-dimethylformamide (10 ml) is heated at 80° C. for 8 hours with stirring. The reaction mixture is poured into water, extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous sodium sulfate and evaporated to dryness in vacuo. The residue is submited to column chromatography on silica gel eluting with hexane-ethyl acetate-methanol (10:10:1) to give cis-7-methoxy-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol (colorless oil) which is isolated as the dihydrochloride (amorphous powder).

reactant | 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol | 500 mg | ClCCCC1C(COC2=C(S1)C=C(C=C2)OC)O | C13H17ClO3S
reactant | N-phenylpiperazine | 500 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | cis-7-methoxy-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol | COC=1C=CC2=C(S[C@@H]([C@@H](CO2)O)CCCN2CCN(CC2)C2=CC=CC=C2)C1 | C23H30N2O3S
